US09283229B2
A mixture of 3-bromo-5-ethoxy-4-(methoxymethoxy)benzaldehyde (600 mg, 2.1 mmol) and CuCN (280 mg, 3.1 mmol) in DMF (10 mL) was heated at 180° C. for 4 hours. TLC (PE:EtOAc=1:1) indicated that the most of the starting material was consumed. The solvent was removed in vacuo, and the residue was purified by column chromatograph to afford 3-ethoxy-5-formyl-2-hydroxybenzonitrile (200 mg, yield: 50.0%).

reactant | 3-bromo-5-ethoxy-4-(methoxymethoxy)benzaldehyde | 2.1 mmol, 600 mg | BrC=1C=C(C=O)C=C(C1OCOC)OCC | C11H13BrO4
reactant | CuCN | 3.1 mmol, 280 mg | C(#N)[Cu]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-ethoxy-5-formyl-2-hydroxybenzonitrile | 200 mg, yield: 50.0% | C(C)OC=1C(=C(C#N)C=C(C1)C=O)O | C10H9NO3
